US05777132
Preparation of 2-(p-Chlorophenyl)-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of N-(p-chloro-α-cyanobenzyl)-2,2,2-trifluoro-N-methylacetamide (13.8 g, 0.05 mol) in toluene is treated with tetrafluoroboric acid-diethyl etherate (10.5 g as is, 8.9 g real, 0.055 mol) at room temperature, heated to 60° C., treated with 2-chloroacrylonitrile (6.9 g, 0.075 mol) over a 25 minute period, held for 2 to 2.5 hours at 60° C., cooled and treated with ethyl acetate. The resultant solution is washed with water and concentrated to give a waxy residue. Flash column chromatography of the residue on silica gel packed with 15% ethyl acetate in heptane and eluted with 20% ethyl acetate in heptane gives the title product as pale yellow crystals, 3.1 g (22% yield), mp 129°-130° C., identified by 1H, 13C, and 19F NMR analyses.

reactant | N-(p-chloro-α-cyanobenzyl)-2,2,2-trifluoro-N-methylacetamide | 0.05 mol, 13.8 g | ClC1=CC=C(C(C#N)N(C(C(F)(F)F)=O)C)C=C1 | C11H8ClF3N2O
reactant | 2-chloroacrylonitrile | 0.075 mol, 6.9 g | ClC(C#N)=C | C3H2ClN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | heptane | CCCCCCC | C7H16
product | 2-(p-Chlorophenyl)-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile | 22% yield | ClC1=CC=C(C=C1)C=1N(C(=CC1C#N)C(F)(F)F)C | C13H8ClF3N2
